US08440652B2
General method C was applied to 4-(5-amino-6-bromopyrazin-2-yl)-N-cyclopropyl-N-methylbenzenesulfonamide (383 mg, 1.00 mmol) and 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (300 mg, 1.1 mmol) to provide 4-(5-amino-6-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyrazin-2-yl)-N-cyclopropyl-N-methylbenzenesulfonamide (382 mg, 85% yield) after purification by preparatory HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.73 (s, 1H), 8.26 (d, J=8.5 Hz, 2H), 8.03 (br. s., 1H), 7.97 (d, J=8.0 Hz, 1H), 7.84 (d, J=8.5 Hz, 2H), 7.74 (d, J=8.0 Hz, 1H), 7.70 (s, 1H), 3.42 (t, J=5.3 Hz, 2H), 2.99 (t, J=6.4 Hz, 2H), 2.67 (s, 3H), 1.77-1.86 (m, 1H), 0.61-0.81 (m, 4 H); MS (EI) m/z=450.5 [M+1]+.

reactant | 4-(5-amino-6-bromopyrazin-2-yl)-N-cyclopropyl-N-methylbenzenesulfonamide | 1.00 mmol, 383 mg | NC=1N=CC(=NC1Br)C1=CC=C(C=C1)S(=O)(=O)N(C)C1CC1 | C14H15BrN4O2S
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 1.1 mmol, 300 mg | CC1(OB(OC1(C)C)C=1C=C2CCNC(C2=CC1)=O)C | C15H20BNO3
product | 4-(5-amino-6-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyrazin-2-yl)-N-cyclopropyl-N-methylbenzenesulfonamide | 382 mg, 85% yield | NC=1N=CC(=NC1C=1C=C2CCNC(C2=CC1)=O)C1=CC=C(C=C1)S(=O)(=O)N(C)C1CC1 | C23H23N5O3S
